US06147106
Step 2: Synthesis of 5-Carboxy-2-oxindole.
5-Methoxycarbonyl-2-oxindole (1 g) and 1 g of sodium hydroxide in 20 mL of methanol was refluxed for 3 hours. The reaction mixture was cooled and concentrated to dryness. The residue was dissolved in water and extracted twice with ethyl acetate. The aqueous layer was acidified with 6 N hydrochloric acid and the precipitated solid collected, washed with water, and dried to give 0.7 g (78%) of the title compound as an off-white solid.

reactant | 5-Methoxycarbonyl-2-oxindole | 1 g | COC(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO3
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 5-Carboxy-2-oxindole | 0.7 g, 78% | C(=O)(O)C=1C=C2CC(NC2=CC1)=O | C9H7NO3
